US07368571B2
3-(4-Fluorobenzyl)-N-methoxy-3H-imidazo[4,5-c]pyridine-6-carboxamide
The title compound was prepared by coupling of 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid and N-methoxyamine hydrochloride under the same conditions as those in step (c) of example 1. 1H NMR (300 MHz, MeOH-d4) δ: 8.71 (s, 1H), 8.53 (s, 1H), 8.32 (s, 1H), 7.36-7.33 (m, 2H), 7.07-7.05 (m, 2H), 5.57 (s, 2H), 3.75 (s, 3H). LCMS (API-ES, M+H+): 301.1. HRMS calcd for C15H14FN4O2 (M+H) 301.1 101, found 301.1105. HPLC: >84% purity.

reactant | 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid | FC1=CC=C(CN2C=NC3=C2C=NC(=C3)C(=O)O)C=C1 | C14H10FN3O2
reactant | N-methoxyamine hydrochloride | Cl.CON
product | 3-(4-Fluorobenzyl)-N-methoxy-3H-imidazo[4,5-c]pyridine-6-carboxamide | FC1=CC=C(CN2C=NC3=C2C=NC(=C3)C(=O)NOC)C=C1 | C15H13FN4O2
